US04064260
2,3-Dihydro-2,2,3-trifluoro-5,6-bis(p-methoxyphenyl)imidazo-[2,1-b]thiazole
A mixture of 0.95 g (2 mmoles) of 2-(2-bromo-1,1,2-trifluoroethylthio)-4,5-bis(p-methoxyphenyl) imidazole, 0.6 g (4 mmoles) potassium carbonate and 10 ml dimethylformamide was stirred at 50°-60° for 2 days. The mixture was poured into ice water. The aqueous mixture was extracted three times with ether. The ether was backwashed three times with water, then dried and concentrated on a rotary evaporator. The residue, 0.5 g of crystals, was combined with 0.3 g of product with precipitated from the aqueous layers on standing. The combined crude product was recrystallized from methyl cyclohexane to give 0.7 g of pure product, m.p. 160°-2°. IR: 3.32μ, =CH; 3.50μ, sat. CH; 6.15, 6.54, 6.61μC=C and C=N; strong 8.02μ, aryl C--O; 9.67μ, C--F.H--NMR: 3.8, 3.85δ (2 singlets, 6H); two doublets 5.6, 6.4δ (JHF1 ~61 cps; JHF1 ~7 cps; JHF3 ~0-1 cps, 1H); 2 overlapping A2B2 quartets 6.7-7.6δ (8H). F--NMR: F2 : two doublets, 75.09 and 72.82δ; F3 : two doublets, 86.88 and 89.16δ; F1 : two doublets centered at 139.78δ (JHF1 ~61 cps; JHF2 ~7 cps; JHF3 ~1 cps; JF1F2 ~4 cps; JF1F3 ~8.5 cps; JF2F3 ~213 cps).

reactant | 2-(2-bromo-1,1,2-trifluoroethylthio)-4,5-bis(p-methoxyphenyl) imidazole | 2 mmoles, 0.95 g | BrC(C(SC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)(F)F)F | C19H16BrF3N2O2S
reactant | potassium carbonate | 4 mmoles, 0.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-2,2,3-trifluoro-5,6-bis(p-methoxyphenyl)imidazo-[2,1-b]thiazole | 0.7 g | FC1(C(N2C(S1)=NC(=C2C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)F)F | C19H15F3N2O2S
